US04338326
Part B: ethyl 5,5-dichloro-3-methyl-2-isopropyl-4-pentenoate
A 250 ml R.B. flask was equipped with a magnetic stirrer, reflux condenser, and N2 inlet tube. The glassware was dried thoroughly then charged with 23.91 g (0.15 mol) of 1,1,3-trichloro-1-butene, 30.36 g (0.15 mol) of 1-trimethylsilyloxy-1-ethoxy-3-methyl-1-butene, 100 ml of methylene chloride, and ~0.50 g of anhydrous zinc chloride. The reaction mixture was stirred at room temperature and monitored by infrared. The gradual disappearance of the ketene acetal C=C peak at 1675 cm-1 and the appearance of an ester C=O peak at 1720 cm-1 was observed. The reaction mixture after 67 hours showed only a c=O peak at 1720 cm-1 and no 1675 cm-1, and was diluted with 150 ml of methylene chloride, washed with 5×100 ml of 5% sodium bicarbonate solution, then 2×with 50 ml of water. The methylene chloride was dried (MgSO4), stripped, and the residue vacuum distilled through a vigreux column to give 23.41 g (62% yield) of the desired product, b.p. 64°-68° C./0.30 mm.

reactant | 1,1,3-trichloro-1-butene | 0.15 mol, 23.91 g | ClC(=CC(C)Cl)Cl | C4H5Cl3
reactant | 1-trimethylsilyloxy-1-ethoxy-3-methyl-1-butene | 0.15 mol, 30.36 g | C[Si](OC(=CC(C)C)OCC)(C)C | C10H22O2Si
reactant | ester C | C([C@@H]([C@@H]1C(=C(C(=O)O1)O)O)O)O | C6H8O6
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
catalyst | zinc chloride | ~0.50 g | [Cl-].[Zn+2].[Cl-]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | ethyl 5,5-dichloro-3-methyl-2-isopropyl-4-pentenoate | 23.41 g, 62% yield | ClC(=CC(C(C(=O)OCC)C(C)C)C)Cl | C11H18Cl2O2
